US07442698B2
1-(2-Azidoethyl)-4-(4-nitrophenyl)piperazine
1-(2-Chloroethyl)-4-(4-nitrophenyl)piperazine (1 g, 0.0033 mol) was dissolved in dimethylsulphoxide (30 mL) and sodium azide (0.34 g, 0.0052 mol) was added followed by Hunig's base (0.84 g, 0.0065 mol). The mixture was stirred at 80° C. overnight in a sealed tube, then diluted with ethyl acetate and washed with water, dried and evaporated to yield the title compound. LCMS: 90%, t=0.85 min, [MH+]=277.26.

reactant | 1-(2-Chloroethyl)-4-(4-nitrophenyl)piperazine | 0.0033 mol, 1 g | ClCCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16ClN3O2
reactant | sodium azide | 0.0052 mol, 0.34 g | [N-]=[N+]=[N-].[Na+]
reactant | Hunig's base | 0.0065 mol, 0.84 g | CCN(C(C)C)C(C)C | C8H19N
solvent | dimethylsulphoxide | 30 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Azidoethyl)-4-(4-nitrophenyl)piperazine | N(=[N+]=[N-])CCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16N6O2
